US09284333B2
To a solution of 8-((R)-1-phenyl-propylcarbamoyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carboxylic acid (Comp. No. 11a) (50 mg, 0.168 mmol) in dimethylformamide (1.7 ml) was added 1-hydroxybenzotriazole (23 mg, 0.168 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (32 mg, 0.168 mmol). The mixture was stirred for 1 h at 40° C., then amino-acetic acid ethyl ester (17 mg, 0.168 mmol) was added and the mixture was stirred at 25° C. overnight. Excess dichloromethane was added and the mixture was washed consecutively with water, aqueous sodium hydrogencarbonate and brine. The organic layer was evaporated to dryness. The residue was dissolved in a small amount of acetonitrile, excess water was added and the solution was freeze-dried to give 52 mg (82%) of {[8-((R)-1-phenyl-propylcarbamoyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carbonyl]-amino}-acetic acid ethyl ester. LC/MS (method 4): Rt=1.19 min; m/z=414.2 (M+H+). 1H-NMR: δ (ppm)=8.46 (1H, t), 8.21 (1H, d), 7.35-7.36 (3H, m), 7.30 (2H, t), 7.21 (1H, t), 4.91 (2H, dd), 4.82 (1H, q), 4.19 (2H, t), 4.11 (2H, q), 3.90-3.92 (4H, m), 1.71-1.83 (2H, m), 1.21 (3H, t), 0.88 (3H, t).

reactant | 8-((R)-1-phenyl-propylcarbamoyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carboxylic acid | C1(=CC=CC=C1)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)C(=O)O | C18H20N2O4
reactant | 1-hydroxybenzotriazole | 0.168 mmol, 23 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.168 mmol, 32 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | amino-acetic acid ethyl ester | 0.168 mmol, 17 mg | C(C)OC(CN)=O | C4H9NO2
solvent | dimethylformamide | 1.7 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | {[8-((R)-1-phenyl-propylcarbamoyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carbonyl]-amino}-acetic acid ethyl ester | 52 mg, 82% | C(C)OC(CNC(=O)C1=CC(=C2COCCN21)C(N[C@H](CC)C2=CC=CC=C2)=O)=O | C22H27N3O5
